US07906546B2
To a stirred suspension of 2.5 g (0.010 mol) of 2-bromomethyl-pyridine hydrobromide in 10 mL of CH3CN at RT, was added 1.78 mL (0.0105 mol, 1.05 eq.) of Hunig's base. After complete dissolution of the salt, 1.62 g (0.010 mol, 1 eq.) of sodium benzene sulfinat and 0.52 g (0.002 mol, 0.2 eq.) were added. The mixture was stirred at RT for 48 hours, and then the reaction was quenched by addition of water, and the product extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and dried under vacuum to afford 1.86 g (80%) of 2-benzenesulfonylmethyl-pyridine.

reactant | 2-bromomethyl-pyridine hydrobromide | 0.010 mol, 2.5 g | Br.BrCC1=NC=CC=C1
reactant | Hunig's base | 0.0105 mol, 1.78 mL, 1.05 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium benzene sulfinat | 0.010 mol, 1.62 g, 1 eq. | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 2-benzenesulfonylmethyl-pyridine | 1.86 g, 80% | C1(=CC=CC=C1)S(=O)(=O)CC1=NC=CC=C1 | C12H11NO2S
